US04031222
A solution of 0.244 g. of ethylene oxide of 30 ml. of methanol at dry-ice temperature is added to an ice cold solution of 2.55 g. of 4-(3-trifluoromethylsulfonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine in 15 ml. of chloroform and 75 ml. of methanol. The solution is stirred at ambient temperature overnight. A second quantity (0.25 g.) of ethylene oxide is added as before and the mixture is again stirred overnight. The mixture is concentrated to dryness and the residue is coevaporated in vacuo several times with acetonitrile. The product is recrystallized several times from acetonitrile to give (±)-1-hydroxyethyl-4-(3-trifluoromethylsulfonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine, m.p. 141°-144° C.

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | dry-ice | C(=O)=O | CO2
reactant | 4-(3-trifluoromethylsulfonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | FC(S(=O)(=O)C=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=C3CCNCC3)C1)(F)F | C21H18F3NO2S
reactant | ethylene oxide | 0.25 g | C1CO1 | C2H4O
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)-1-hydroxyethyl-4-(3-trifluoromethylsulfonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | OC(C)N1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)S(=O)(=O)C(F)(F)F)C=CC=C2 | C23H22F3NO3S
